US09145407B2
N-(2,4-Dimethoxybenzyl)-3-iodo-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
The title compound was prepared according to Preparation 35 at 60° C. over 4 days using 2-pyridazin-4-yl-4-(trifluoromethyl)phenol (Preparation 30) and N-(2,4-dimethoxybenzyl)-4-fluoro-5-iodo-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 37) to give the product (420 mg, 43%).

reactant | 2-pyridazin-4-yl-4-(trifluoromethyl)phenol | N1=NC=C(C=C1)C1=C(C=CC(=C1)C(F)(F)F)O | C11H7F3N2O
reactant | N-(2,4-dimethoxybenzyl)-4-fluoro-5-iodo-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | COC1=C(CN(S(=O)(=O)C2=CC=C(C(=C2)I)F)C2=NC=NS2)C=CC(=C1)OC | C17H15FIN3O4S2
product | N-(2,4-Dimethoxybenzyl)-3-iodo-4-[2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | COC1=C(CN(S(=O)(=O)C2=CC(=C(C=C2)OC2=C(C=C(C=C2)C(F)(F)F)C2=CN=NC=C2)I)C2=NC=NS2)C=CC(=C1)OC | C28H21F3IN5O5S2
